US04803226
Using the reductive amination procedure described in 1, 2-tert-butyl-10-chloro-9-anthracenecarbaldehyde and 2-methyl-2-amino-1,3-propanediol (Aldrich) gave 2-((2-tert-butyl-10-chloro-9-anthracenylmethyl)amino)-2-methyl-1,3-propanediol hydrochloride.1/4H2O mp 249°-250° (dec), (EtOH/Et2O), (C, H, Cl, N).

reactant | 2-tert-butyl-10-chloro-9-anthracenecarbaldehyde | C(C)(C)(C)C1=CC2=C(C3=CC=CC=C3C(=C2C=C1)Cl)C=O | C19H17ClO
reactant | 2-methyl-2-amino-1,3-propanediol | CC(CO)(CO)N | C4H11NO2
product | 2-((2-tert-butyl-10-chloro-9-anthracenylmethyl)amino)-2-methyl-1,3-propanediol hydrochloride | Cl.C(C)(C)(C)C1=CC2=C(C3=CC=CC=C3C(=C2C=C1)Cl)CNC(CO)(CO)C | InChI=1S/C23H28ClNO2.ClH/c1-22(2,3)15-9-10-18-19(11-15)20(12-25-23(4,13-26)14-27)16-7-5-6-8-17(16)21(18)24;/h5-11,25-27H,12-14H2,1-4H3;1H
